US04962203
Step 2. Preparation of ethyl 4-(3-(2-(7-bromoquinolin-2-yl)ethenyl)phenoxy)butyrate
A solution of 7-bromoquinaldine (22 g, 0.1M) and ethyl 4-(3-formylphenoxy)butanoate (20 g) in acetic anhydride (100 ml) was heated at 135° for 34 hours cooled and evaporated. Flash chromatography of the residue using 1:1 ether in hexane as eluant afforded crude adduct. Recrystallization from hexane ethyl acetate afforded the title compound: m.p. 92-93°.

reactant | 7-bromoquinaldine | 0.1M, 22 g | BrC1=CC=C2C=CC(=NC2=C1)C | C10H8BrN
reactant | ethyl 4-(3-formylphenoxy)butanoate | 20 g | C(=O)C=1C=C(OCCCC(=O)OCC)C=CC1 | C13H16O4
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 4-(3-(2-(7-bromoquinolin-2-yl)ethenyl)phenoxy)butyrate | BrC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(OCCCC(=O)OCC)C=CC1 | C23H22BrNO3
